US08110588B2
3-(2,4-Dichloro-6-iodo-phenyl)-5-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine (22)
To a stirred and ice-cooled solution of 2-azido-1,5-dichloro-3-iodo-benzene (0.500 g, 1.5928 mmol) and 4-methoxyphenylacetonitrile (0.29 g, 1.9114 mmol) in absolute ethanol (6 ml), an ice-cooled solution of sodium methoxide (0.129 g, 2.3892 mmol) in absolute ethanol (4 ml) is added drop-wise and the mixture is allowed to reach room temperature spontaneously overnight. The resulting reaction mixture is evaporated and the gummy residue (0.740 g, 100% mass balance) is purified by column chromatography over silica gel (60-120 mesh) eluting with 0-15% ethyl acetate in hexane, to obtain the title compound as a brown solid (0.072 g, 10% yield). M.p. 72.5-73.6° C. LC-ESI-HRMS of [M+H]+ shows 460.9425 Da. Calc. 460.943317 Da, dev. −1.8 ppm.

reactant | 2-azido-1,5-dichloro-3-iodo-benzene | 1.5928 mmol, 0.500 g | N(=[N+]=[N-])C1=C(C=C(C=C1I)Cl)Cl | C6H2Cl2IN3
reactant | 4-methoxyphenylacetonitrile | 1.9114 mmol, 0.29 g | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | sodium methoxide | 2.3892 mmol, 0.129 g | C[O-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 3-(2,4-Dichloro-6-iodo-phenyl)-5-(4-methoxy-phenyl)-3H-[1,2,3]triazol-4-ylamine | 0.072 g, 10% yield | ClC1=C(C(=CC(=C1)Cl)I)N1N=NC(=C1N)C1=CC=C(C=C1)OC | C15H11Cl2IN4O
